US07612114B2
6-{2-{[4-(2-Azepan-1-ylethoxy)-3-fluorobenzyl]ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (400 mg) and 4-(2-azepan-1-ylethoxy)-3-fluorobenzoyl chloride hydrochloride (560 mg) according to an analogous synthetic method to Example 187, the title compound (340 mg) was obtained.

reactant | ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 400 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C20H25NO2
reactant | 4-(2-azepan-1-ylethoxy)-3-fluorobenzoyl chloride hydrochloride | 560 mg | Cl.N1(CCCCCC1)CCOC1=C(C=C(C(=O)Cl)C=C1)F
product | 6-{2-{[4-(2-Azepan-1-ylethoxy)-3-fluorobenzyl]ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 340 mg | N1(CCCCCC1)CCOC1=C(C=C(CCCNC2=C(C=CC(=C2)O)C2CC=3C=CC(=CC3CC2)O)C=C1)F | C33H41FN2O3
